US07432288B2
3-{[4-(Difluoromethoxy)phenyl]amino}-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione
3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione (0.13 mmol, 36 mg) and 4-difluoromethoxyaniline (0.28 mmol, 45 mg) were dissolved in DMF (1 mL). The mixture was heated in a microwave reactor at 150° C. for 20 min. After cooling, the reaction mixture was purified by HPLC (95% 0.1M ammonium acetate buffer: 5% CH3CN→100% CH3CN) to give 13 mg (24%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 7.25 (bs, 1H), 7.19-7.08 (m, 3H), 7.02-6.97 (m, 2H), 6.81-6.75 (m, 2H), 6.66-6.60 (m, 2H), 6.36 (t, J=74.0 Hz, 1H), 3.83 (t, J=5.7 Hz, 2H), 3.63 (t, J=5.7 Hz, 2H), 3.38 (s, 3H)

reactant | 3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione | 0.13 mmol, 36 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CCOC)=O | C13H12ClNO3
reactant | 4-difluoromethoxyaniline | 0.28 mmol, 45 mg | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-{[4-(Difluoromethoxy)phenyl]amino}-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione | 13 mg, 24% | FC(OC1=CC=C(C=C1)NC=1C(N(C(C1C1=CC=CC=C1)=O)CCOC)=O)F | C20H18F2N2O4
